US08389524B2
(2R)-2-[(4-{[(5-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride (for a preparation see Example 16A(j), amine was converted into dihydrochloride after chiral hplc purification) (51.3 mg, 0.137 mmol) in chloroform (5 ml) and methanol (0.1 ml) at rt under argon was treated with triethylamine (0.057 ml, 0.411 mmol) and stirred at rt for 0.25 h. The solution was then treated with 5-fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde (24.95 mg, 0.137 mmol) and stirred for a further 0.5 h. The solution was then treated with sodium triacetoxyborohydride (174 mg, 0.822 mmol) and stirred at rt for 2 h, more sodium triacetoxyborohydride (174 mg, 0.137 mmol) was added, reaction stirred for a further 1 h, the reaction was then treated with saturated aqueous NaHCO3 (20 ml) and extracted with 20% methanol/DCM (3×20 ml). The combined organic extracts were dried (MgSO4) and chromatographed (0-20% methanol:DCM) to give the free base of the title compound as a white solid (29 mg, 0.062 mmol, 45%,).

reactant | (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | triethylamine | 0.411 mmol, 0.057 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde | 0.137 mmol, 24.95 mg | FC1=C(C=CC=2OCCOC21)C=O | C9H7FO3
reactant | sodium triacetoxyborohydride | 0.822 mmol, 174 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.137 mmol, 174 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 0.1 ml | CO | CH4O
product | (2R)-2-[(4-{[(5-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 0.062 mmol, 29 mg, 45% | Cl.FC1=C(C=CC=2OCCOC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C24H26FN5O4.ClH/c25-22-15(1-3-19-23(22)34-10-9-33-19)11-26-16-5-7-28(8-6-16)13-17-14-29-20(31)4-2-18-24(29)30(17)21(32)12-27-18;/h1-4,12,16-17,26H,5-11,13-14H2;1H/t17-;/m1./s1
